US06335445B1
5.1) 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[2-(4-nitrophenyl)ethyl]-benzamide
2.02 g (10 mmoles) of 4-nitrophenetylamine hydrochloride, 2.5 g (10 mmoles) of 3,5-di-tert-butyl-4-hydroxy-benzoic acid, 1.38 ml (10 mmoles) of triethylamine and 2.26 g (11 mmoles) of dicyclohexylcarbodiimide are introduced into a 100 ml flask containing 20 ml of THF. The reaction medium is agitated for 15 hours at ambient temperature, the precipitate which appears is filtered out and rinsed with ethyl acetate. After concentration of the filtrate under reduced pressure, the residue is precipitated from diethyl ether. The solid is recovered by filtration and rinsed with diethyl ether. A white powder is obtained with a yield of 73%. Melting point: 204-206° C.

reactant | 4-nitrophenetylamine hydrochloride | 10 mmoles, 2.02 g | Cl.[N+](=O)([O-])C1(CC=C(C=C1)N)OCC
reactant | 3,5-di-tert-butyl-4-hydroxy-benzoic acid | 10 mmoles, 2.5 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | triethylamine | 10 mmoles, 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 11 mmoles, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[2-(4-nitrophenyl)ethyl]-benzamide | yield of 73% | CC(C)(C)C=1C=C(C(=O)NCCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C23H30N2O4
